US06608203B2
6-Benzyloxy-1-[4-(2-pyrrolidin-1-yl-ethoxy)phenyl]-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester
A solution of di-tert-butyl dicarbonate (0.035 g, 0.16 mmol), 6-benzyloxy-1-[4-(2-pyrrolidin-1-yl-ethoxy)phenyl]-1,2,3,4-tetrahydroisoquinoline (0.069 g, 0.16 mmol), and Et3N (0.028 ml, 0.20 mmol) in anhydrous THF (10 ml) was stirred at rt under N2 for 20 hr. The reaction mixture was concentrated in vacuo to give 0.081 g of yellow oil. Purification by flash chromatography, eluting with EtOAc:MeOH (6:4), gave 0.041 g (48% yield) of white solid.

reactant | di-tert-butyl dicarbonate | 0.16 mmol, 0.035 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 6-benzyloxy-1-[4-(2-pyrrolidin-1-yl-ethoxy)phenyl]-1,2,3,4-tetrahydroisoquinoline | 0.16 mmol, 0.069 g | C(C1=CC=CC=C1)OC=1C=C2CCNC(C2=CC1)C1=CC=C(C=C1)OCCN1CCCC1 | C28H32N2O2
reactant | Et3N | 0.20 mmol, 0.028 ml | CCN(CC)CC | C6H15N
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 6-Benzyloxy-1-[4-(2-pyrrolidin-1-yl-ethoxy)phenyl]-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester | 0.081 g | C(C)(C)(C)OC(=O)N1C(C2=CC=C(C=C2CC1)OCC1=CC=CC=C1)C1=CC=C(C=C1)OCCN1CCCC1 | C33H40N2O4
